US07687496B2
12. Synthesis of allyl-(2-[1,3]dioxolan-2-yl-ethyl)dimethylsilane
To a slurry of magnesium (2.43 g) in dry tetrahydrofuran (50 mL), few drops of dibromoethane (˜50 μL) was added under argon and stirred at room temperature for 10 min. The reaction mixture was cooled to 10° C. and 2-(2-bromoethyl)-1,3-dioxolane (10.9 g) was introduced dropwise during 10 min and allowed to stir at room temperature for 2 hours. The resulting reaction mixture was cooled to −10° C. and allyldimethylchlorosilane (6.73 g) was added dropwise during 10 min. and stirred over night at room temperature. Finally, the reaction content was quenched with aqueous NaHCO3 (15 mL) and extracted with ether (3×50 mL). The combined organic layer was dried and concentrated under mild vacuum to obtain the crude product, which was advanced to the next step without further purification (yield 9.5 g).

reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | dibromoethane | ˜50 μL | BrC(C)Br | C2H4Br2
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 10.9 g | BrCCC1OCCO1 | C5H9BrO2
reactant | allyldimethylchlorosilane | 6.73 g | C(C=C)[Si](Cl)(C)C | C5H11ClSi
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | allyl-(2-[1,3]dioxolan-2-yl-ethyl)dimethylsilane | C(C=C)[Si](C)(C)CCC1OCCO1 | C10H20O2Si
